* Z:\mnt\design.r\spice\examples\3416.asc
L1 N002 OUT .2µ
R1 OUT N005 255K
V1 IN 0 5
R2 N005 0 200K
R3 N006 0 127K
R4 N004 N003 7.5K
C1 OUT 0 100µ
C2 N003 0 820p
R5 IN N001 10K
XU1 N006 N007 0 N002 0 IN IN N001 N005 N004 IN LTC3416
V2 N007 0 PWL(0 0 1m 1)
Rload OUT 0 .45
.tran 1m
.lib LTC3416.sub
.backanno
.end
